US04470988
A solution of 7-acetoxy-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one (7.4 g) in ethanol (250 ml) is hydrogenated at 45 psi at 70° C. using 10% palladium on charcoal (1.5 g) as catalyst. The catalyst is filtered off and the solvent removed under reduced pressure. The residue is recrystallized to give 1,3,4,5,6,7-hexahydro-1-benzazonin-2-one.

reactant | 7-acetoxy-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one | 7.4 g | C(C)(=O)OC1CCCCC(NC2=C1C=CC=C2)=O | C14H17NO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | 1,3,4,5,6,7-hexahydro-1-benzazonin-2-one | N1C(CCCCCC2=C1C=CC=C2)=O | C12H15NO
